US05215972
10 ml of a 20% phosgene solution in toluene are added to a solution, cooled to -10° C., of 4.12 g of stigmasterol in 40 ml of methylene chloride. The mixture is reacted overnight and then cooled to -10° C. After adding 0.7 ml of triethylamine in 10 ml of methylene chloride the reaction is continued for 24 hours. The mixture is neutralized with 0.7 ml of triethylamine in 10 ml of methylene chloride and the (E)-stigmasta-5,22-dien-3β-yl chloroformate is isolated.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | stigmasterol | 4.12 g | CC[C@H](/C=C/[C@@H](C)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CC=C4[C@@]3(CC[C@@H](C4)O)C)C)C(C)C | C29H48O
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (E)-stigmasta-5,22-dien-3β-yl chloroformate | ClC(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](/C=C/[C@@H](CC)C(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C30H47ClO2
